US07652008B2
2,2,9-Trimethyl-2H-pyrano[2,3-g]quinoline
To a solution of 6-amino-2,2-dimethylchromene (10.1 g, 57.7 mmol) in ethanol (500 mL), methylvinylketone (33.0 mL, 404 mmol), m-nitrobenzenesulfonic acid (21.1 g, 104 mmol), zinc chloride (1.97 g, 14.4 mmol) and 35% hydrochloric acid (24 mL, 289 mmol) were added at room temperature and the resulting mixture was stirred at 110° C. for 5 hours. Upon the completion of the reaction, ethanol was distilled off, water was added, and the resulting solution was neutralized with sodium hydrogencarbonate and extracted with ethyl acetate. The resulting organic phase was washed with sodium chloride aqueous solution, and dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by medium pressure column chromatography (hexane/ethyl acetate=3/1) and the aimed product was obtained (yield: 38%).

reactant | 6-amino-2,2-dimethylchromene | 57.7 mmol, 10.1 g | NC=1C=C2C=CC(OC2=CC1)(C)C | C11H13NO
reactant | methylvinylketone | 404 mmol, 33.0 mL | CC(=O)C=C | C4H6O
reactant | m-nitrobenzenesulfonic acid | 104 mmol, 21.1 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)O | C6H5NO5S
reactant | hydrochloric acid | 289 mmol, 24 mL | Cl | ClH
solvent | ethanol | 500 mL | C(C)O | C2H6O
catalyst | zinc chloride | 14.4 mmol, 1.97 g | [Cl-].[Zn+2].[Cl-]
product | 2,2,9-Trimethyl-2H-pyrano[2,3-g]quinoline | yield: 38% | CC1(C=CC=2C(=CC=3C(=CC=NC3C2)C)O1)C | C15H15NO
